US04178379
B. 3-(4-Chlorophenyl)-7-[(4-chlorophenyl)methylene]-2,4,6,7-tetrahydro-1-propylthiopyrano[4,3-c]-pyrazole
A mixture of tetrahydro-3,5-bis-(4-chlorophenylmethylene)-4H-thiopyran-4-one (6 g, 16.6 mmole) and N-propylhydrazine (1.3 g, 16.6 mmole) in dichloroethane (100 ml) is heated at reflux temperature for 2.5 hours and cooled to room temperature overnight. The reaction mixture is washed with dilute HCl and water, then dried over CaCl2. After the solvent is removed in vacuo, the residue (yellow solid) is chromatographed on a dry-packed Al2O3 column (neutral, activity I). The fractions eluted with 0-5% EtOAc/hexane give the major product. Further elution of the column with EtOAc, then with CHCl3, and after crystallization from acetoneacetonitrile, gives 0.6 g (9%) of the title compound in crystalline form (99% pure) m.p. 192°-194.5°.

reactant | tetrahydro-3,5-bis-(4-chlorophenylmethylene)-4H-thiopyran-4-one | 16.6 mmole, 6 g | ClC1=CC=C(C=C1)C=C1CSCC(C1=O)=CC1=CC=C(C=C1)Cl | C19H14Cl2OS
reactant | N-propylhydrazine | 16.6 mmole, 1.3 g | C(CC)NN | C3H10N2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | 3-(4-Chlorophenyl)-7-[(4-chlorophenyl)methylene]-2,4,6,7-tetrahydro-1-propylthiopyrano[4,3-c]-pyrazole | 0.6 g, 9% | ClC1=CC=C(C=C1)C1C2=C(N(N1)CCC)C(CSC2)=CC2=CC=C(C=C2)Cl | C22H22Cl2N2S
